US08492372B2
1-[2-METHOXY-4-(METHYLTHIO)PHENYL]ETHANONE
Sodium thiomethoxide (3.35 g, 47.8 mmol) was dissolved in dry DMF (35 ml) under a blanket of nitrogen. The solution was cooled to −15° C. and 1-(4-fluoro-2-methoxyphenyl)ethanone (6.7 g, 39.8 mmol) was added in portions. After 10 min at −15° C. the reaction mixture was brought to 0° C. for 1.5 h. EtOAc was added and the organic phase was washed three times with aqueous HCl (10%), dried (Na2SO4) and evaporated under reduced pressure to dryness. Purification by flash column chromatography (isooctane/EtOAc 4:1) gave the pure title compound (6.3 g, 81%). MS m/z (rel. intensity, 70 eV) 196 (M+, 37), 182 (11), 181 (bp), 166 (7), 138 (10).

reactant | Sodium thiomethoxide | 47.8 mmol, 3.35 g | C[S-].[Na+]
reactant | 1-(4-fluoro-2-methoxyphenyl)ethanone | 39.8 mmol, 6.7 g | FC1=CC(=C(C=C1)C(C)=O)OC | C9H9FO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 1-[2-METHOXY-4-(METHYLTHIO)PHENYL]ETHANONE | 6.3 g, 81% | COC1=C(C=CC(=C1)SC)C(C)=O | C10H12O2S
